US07465726B2
5-Nitro-3-oxo-2,3-dihydroindazole-1-carboxylic acid tert-butyl ester
A suspension of 5-nitro-1,2-dihydroindazol-3-one (2.00 g, 11.2 mmol) and di-tert-butyl-dicarbonate (3.17 g, 14.5 mmol) was stirred in anhydrous DCM at 0° C. and DMAP (0.34 g, 2.79 mmol) was added. The mixture turned deep red in color and after 10 minutes a precipitate had formed. This precipitate was filtered and washed with DCM, then dried in vacuo to give the desired product as an off-white powder. 1H NMR (400 MHz, DMSO-d6): δ=1.63 (s, 9H), 8.16 (d, J=9.2 Hz, 1H), 8.42 (dd, J=9.2, 2.0 Hz, 1H), 8.61 (d, J=2.4 Hz, 1H), 12.63 (brs, 1H). MS (ES+): m/z 559.3 (100) [MH+](dimer).

reactant | 5-nitro-1,2-dihydroindazol-3-one | 11.2 mmol, 2.00 g | [N+](=O)([O-])C=1C=C2C(NNC2=CC1)=O | C7H5N3O3
reactant | di-tert-butyl-dicarbonate | 14.5 mmol, 3.17 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 2.79 mmol, 0.34 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-Nitro-3-oxo-2,3-dihydroindazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1NC(C2=CC(=CC=C12)[N+](=O)[O-])=O | C12H13N3O5
